US20010007764A1
Cbz-Lys(Boc)-OMe
Cbz-Lys(Boc)-OH (28 g) was dissolved in dichloromethane/ methanol=9/1 v/v (500 ml). 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (23.6 g) was added and the solution adjusted to pH 8 by addition of triethylamine. The reaction mixture was stirred for 2 h at room temperature. The mixture was washed successively with cold 1N hydrogen chloride solution, water, 5% sodium hydrogencarbonate, and water and dried over sodium sulfate. The filtrate was evaporated and the residue was chromatographed on silica gel in ethyl acetate/heptane=1/4 v/v as eluent. The fractions containing Cbz-Lys(Boc)-OMe were pooled and evaporated. Yield: 29.1 g TLC: Rf=0.85, silica gel, ethyl acetate/heptane=3/1 v/v.

reactant | Cbz-Lys(Boc)-OH | 28 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H28N2O6
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 23.6 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane methanol | ClCCl.CO
product | Cbz-Lys(Boc)-OMe | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C20H30N2O6
